US04287193
A mixture of 33.24 g of the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-(hydroxyimino)-acetic acid, 330 ml of methylene chloride and 33 ml of 2-methoxypropene was stirred under argon at room temperature for 15 minutes and was then evaporated to dryness under reduced pressure to obtain the syn isomer of 2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetic acid. The residue was dissolved in 170 ml of dry methylene chloride and 8.75 g of dicyclohexylcarbodiimide were added thereto under argon. After total dissolution, dicyclohexylurea crystallized and the mixture was stirred for 100 minutes and was vacuum filtered. The filter was rinsed and the filtrate was iced and a solution A was added thereto with stirring over 3 minutes.

reactant | 2-(2-tritylamino-4-thiazolyl)-2-(hydroxyimino)-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NO | C24H19N3O3S
reactant | 2-methoxypropene | 33 ml | COC(=C)C | C4H8O
solvent | methylene chloride | 330 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C(C(=O)O)=NOC(C)(OC)C | C28H27N3O4S
